US05070089
Methyl 4-(2-aminobenzyl)-1-piperazinecarbodithioate (Com. No. 11)
To a mixture of 4 ml of conc. hydrochloric acid and 4 ml of ethanol was added 622 mg (2.0 mmol.) of methyl 4-(2-nitrobenzyl)-1-piperazinecarbodithioate. The mixture was chilled with ice, and then to this chilled mixture was dropwise added under stirring a solution of 2.7 g (12 mmol.) of SnCl2.2H2O in 5 ml of ethanol for 15 min. After the addition was complete, the mixture was further stirred at room temperature for 2 hours. Ethanol was distilled off under reduced pressure, and to the residue were added 10 ml of water and 10 ml of ethyl acetate. The resulting mixture was made alkaline by addition of saturated aqueous sodium hydrogen carbonate solution. Precipitated insolubles were removed by filtration. The organic filtrate was washed with a saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and placed under reduced pressure to distill off the solvent. The residue was crystallized from ether, and collected by filtration, yielding 436 mg of the desired compound as a white crystalline product, m.p. 110°-113.5° C., yield 77.6%.

reactant | hydrochloric acid | 4 ml | Cl | ClH
reactant | methyl 4-(2-nitrobenzyl)-1-piperazinecarbodithioate | 2.0 mmol, 622 mg | [N+](=O)([O-])C1=C(CN2CCN(CC2)C(=S)SC)C=CC=C1 | C13H17N3O2S2
reactant | SnCl2.2H2O | 12 mmol, 2.7 g | O.O.Cl[Sn]Cl
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | Methyl 4-(2-aminobenzyl)-1-piperazinecarbodithioate | 436 mg, yield 77.6% | NC1=C(CN2CCN(CC2)C(=S)SC)C=CC=C1 | C13H19N3S2
